US07504433B2
2-Formyl-5-(4-trifluoromethyl-phenyl)-thiophene-3-boronic acid
The titled compound is prepared from 5-(4-Trifluoromethyl-phenyl)-thiophene-2-carbaldehyde (2.70 g, 10 mmole) and trimethyl borate (5.68 g, 50.0 mmole) in a similar manner to 3-Methyl-5-(4-trifluoromethyl-phenyl)-thiophene-2-carbaldehyde.

reactant | 5-(4-Trifluoromethyl-phenyl)-thiophene-2-carbaldehyde | 10 mmole, 2.70 g | FC(C1=CC=C(C=C1)C1=CC=C(S1)C=O)(F)F | C12H7F3OS
reactant | trimethyl borate | 50.0 mmole, 5.68 g | B(OC)(OC)OC | C3H9BO3
reactant | 3-Methyl-5-(4-trifluoromethyl-phenyl)-thiophene-2-carbaldehyde | CC1=C(SC(=C1)C1=CC=C(C=C1)C(F)(F)F)C=O | C13H9F3OS
product | 2-Formyl-5-(4-trifluoromethyl-phenyl)-thiophene-3-boronic acid | C(=O)C=1SC(=CC1B(O)O)C1=CC=C(C=C1)C(F)(F)F | C12H8BF3O3S
